US07687637B2
162a) 1-Benzhydryl-3-(tert-butyl-diphenyl-silanyloxy)-azetidine
A stirred solution of 1-Benzhydrylazetan-3-ol (2.0 g, 8.4 mmol) in DMF (20 ml) at 0° C. is treated with imidazole (0.57 g, 8.4 mmol) and t-butylchlorodiphenyl silane (2.31 g, 8.4 mmol). The reaction mixture is allowed to warm up to room temperature and stirred overnight. The mixture is poured into water (250 ml) and extracted with EtOAc (3×100 ml). The combined organic extracts are washed with water (2×100 ml), brine (100 ml) and dried over MgSO4. The solvent is removed in vacuo to yield the titled compound.

reactant | 1-Benzhydrylazetan-3-ol | 8.4 mmol, 2.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | imidazole | 8.4 mmol, 0.57 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodiphenyl silane | 8.4 mmol, 2.31 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | water | 250 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Benzhydryl-3-(tert-butyl-diphenyl-silanyloxy)-azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H35NOSi
